US07125901B2
A mixture of benzyl 4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-ylcarbamate (25 mg), cyanamide (6.0 mg), 4N hydrogen chloride in ethyl acetate (0.018 ml) and ethanol (1 ml) was stirred at 100° C. for 72 hours. The reaction mixture was concentrated in vacuo. To the residue was added ethyl acetate (5 ml) and saturated aqueous sodium hydrogen bicarbonate (5 ml). The precipitated solid was filtered and washed with ethylacetate and water to give benzyl 4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-1,3-thiazol-2-carbamate (15 mg).

reactant | benzyl 4-[2-(4-aminophenyl)ethyl]-1,3-thiazol-2-ylcarbamate | 25 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(OCC1=CC=CC=C1)=O | C19H19N3O2S
reactant | cyanamide | 6.0 mg | N#CN | CH2N2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 0.018 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | benzyl 4-[2-(4-{[amino(imino)methyl]amino}phenyl)ethyl]-1,3-thiazol-2-carbamate | 15 mg | NC(=N)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(=O)OCC1=CC=CC=C1 | C20H21N5O2S
